US09447084B2
1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-3-(2,2,2-trifluoroethyl)imidazolidin-4-one
Into a 50-mL round bottom flask, was placed 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one (50 mg, 0.09 mmol, 1.00 equiv), N,N-dimethylformamide (1 mL), sodium hydride (7 mg, 0.17 mmol, 2.00 equiv, 60%), The resulting solution was stirred for 20 min at 25° C. Added 2,2,2-trifluoroethyl trifluoromethanesulfonate (40 mg, 0.17 mmol, 1.98 equiv). The resulting solution was allowed to react, with stirring, for an additional 1 h at r t. The reaction was then quenched by the addition of 10 ml of water. The resulting solution was extracted with 2×10 ml of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×10 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a TLC plate with PE/EA (2/1). This resulted in 23.7 mg (37%) of 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-3-(2,2,2-trifluoroethyl)imidazolidin-4-one as yellow oil. ES, m/z): [M+CH3CN]+697.0; 1H NMR (300 MHz, CDCl3): δ8.12-8.22 (m, 2H), 7.98 (s, 1H), 7.86 (d, J=7.8 Hz, 2H), 7.73 (d, J=7.8 Hz, 1H), 5.17 (s, 1H), 4.79 (s, 1H), 4.44 (d, J=18.0 Hz, 1H), 4.01-4.31 (m, 4H), 3.93 (s, 1H).

reactant | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]imidazolidin-4-one | 0.09 mmol, 50 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CNC(C1)=O)C(F)(F)F)C(F)(F)F | C22H13ClF9N3O3
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.17 mmol, 7 mg, 2.00 equiv | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.17 mmol, 40 mg, 1.98 equiv | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | CH3CN | CC#N | C2H3N
product | 1-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl)carbonyl]-3-(2,2,2-trifluoroethyl)imidazolidin-4-one | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CN(C(C1)=O)CC(F)(F)F)C(F)(F)F)C(F)(F)F | C24H14ClF12N3O3
